US07432291B2
ii) 3-(4-Trifluoromethoxy-phenyl)-acrylamide
To a suspension of 4.90 g (21.1 mmol) 3-(4-Trifluoromethoxy-phenyl)-acrylic acid in 30.0 ml tetrahydrofuran and 0.3 ml N,N-dimethyl formamide a solution of 2.70 ml (32.0 mmol) oxalyl chloride in 5.0 ml tetrahydrofuran was added dropwise at 0° C. within 10 min. Stirring was continued at 0-5° C. for 30 min. and 2 h at room temperature thereafter. The resulting solution was cooled to 0-5° C. again and then added within 15 min. to 75 ml of a 25% aqueous ammonia solution. After stirring for 30 min. the precipitated amide was collected, washed with water and dried at 40° C. in vacuo. 4.48 g (92%) 3-(4-Trifluoromethoxy-phenyl)-acrylamide.

reactant | 3-(4-Trifluoromethoxy-phenyl)-acrylic acid | 21.1 mmol, 4.90 g | FC(OC1=CC=C(C=C1)C=CC(=O)O)(F)F | C10H7F3O3
reactant | oxalyl chloride | 32.0 mmol, 2.70 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 30.0 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethyl formamide | 0.3 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 5.0 ml | O1CCCC1 | C4H8O
product | 3-(4-Trifluoromethoxy-phenyl)-acrylamide | FC(OC1=CC=C(C=C1)C=CC(=O)N)(F)F | C10H8F3NO2
